US04434175
Crude ethyl 5-(p-chlorobenzoyl)-3-ethoxycarbonyl-4-methoxy-1-methylpyrrole-2-acetate (505 mg) is suspended in 1 ml ethanol and heated to reflux. After all the solids dissolve, 5 ml of 2.5 N aqueous sodium hydroxide is added dropwise, causing an oil to separate at the end of the addition. However, the reaction mixture becomes homogeneous again after stirring vigorously at 100° for about 5 min. The reaction is then cooled, diluted with 5 ml water and acidified with 5.5 ml 2.5 N hydrochloric acid. The resulting precipitate is filtered, dried in vacuo to afford 478 mg of crude 5-(p-chlorobenzoyl)-3-hydroxycarbonyl-4-methoxy-1-methylpyrrole-2-acetic acid.

reactant | ethyl 5-(p-chlorobenzoyl)-3-ethoxycarbonyl-4-methoxy-1-methylpyrrole-2-acetate | 505 mg | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)OCC)C(=O)OCC)OC)C=C1 | C20H22ClNO6
reactant | sodium hydroxide | 2.5 N, 5 ml | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 5-(p-chlorobenzoyl)-3-hydroxycarbonyl-4-methoxy-1-methylpyrrole-2-acetic acid | 478 mg | ClC1=CC=C(C(=O)C2=C(C(=C(N2C)CC(=O)O)C(=O)O)OC)C=C1 | C16H14ClNO6
